US05616586
8-Bromo-5-(phenylcarbamoyl)-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 8-bromo-5-carboxy-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione (300 mg, 0.96 mmol) and aniline (97 μL, 1.061 mmol) to give 274 mg of the title compound (74%): mp>300° C.; 1H NMR (270 MHz, DMSO-d6) δ12.09 (s, 1H), 10.45 (s, 1H), 7.59 (d, 2H, J=7.5 Hz), 7.34 (t, 2H, J=7.5 Hz), 7.23 (d, 1H, J=1 Hz), 7.10 (t, 1H, J=7.5 Hz), 7.07 (d, 1H, J=1 Hz), 5.31 (dd, 1H, J=10, 5 Hz), 4.32 (d, 2H, J=5.6 Hz), 3.78 (dd, 1H, J=17, 10 Hz), 3.35 (dd, 1H, J=17, 5 Hz),

reactant | 8-bromo-5-carboxy-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 0.96 mmol, 300 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)C(=O)O | C11H7BrN2O4
reactant | aniline | 1.061 mmol, 97 μL | NC1=CC=CC=C1 | C6H7N
product | 8-Bromo-5-(phenylcarbamoyl)-5,6-dihydro-1H-pyrrolo[1,2,3-de]quinoxaline-2,3-dione | 274 mg, 74% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(C2)C(NC2=CC=CC=C2)=O | C17H12BrN3O3
